US04976773
The N,N-diethyl-3-(nitro)benzenesulfonamide (3.9 g) was dissolved in methanol (60 ml) and, after an addition of conc. hydrochloric acid (10 ml), reduced iron (4.2 g) was added and the mixture was stirred at room temperature for 2 hours. After filtration, methanol was evaporated under a reduced pressure and the residue was made basic with an addition of 4N sodium hydroxide. The iron oxide precipitated was separated by filtration, washed with methylene chloride (50 ml). Also the filtrate was extracted with methylene (50 ml×2) and combined with the methylene chloride washing, followed by drying over anhydrous sodium sulfate. Evaporation of the solvent gave N,N-diethyl-3-(amino)benzenesulfonamide (3.0 g) (m.p. 82°-84° C.).

reactant | N,N-diethyl-3-(nitro)benzenesulfonamide | 3.9 g | C(C)N(S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])CC | C10H14N2O4S
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | N,N-diethyl-3-(amino)benzenesulfonamide | 3.0 g | C(C)N(S(=O)(=O)C1=CC(=CC=C1)N)CC | C10H16N2O2S
